US07612114B2
6-{2-{{2-[4-(2-Diethylaminoethoxy)phenyl]ethyl}ethylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 4-{2-{ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol (324 mg) and (2-chloroethyl)diethylamine hydrochloride (168 mg) according to an analogous synthetic method to Preparation Example 40, the total amount of {2-[4-(2-diethylaminoethoxy)phenyl]ethyl}ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine was used according to an analogous synthetic method to Example 111 to provide the title compound (212 mg).

reactant | 4-{2-{ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol | 324 mg | C(C)N(CCC1=CC=C(C=C1)O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C28H33NO3
reactant | (2-chloroethyl)diethylamine hydrochloride | 168 mg | Cl.ClCCN(CC)CC
reactant | {2-[4-(2-diethylaminoethoxy)phenyl]ethyl}ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | C(C)N(CCOC1=CC=C(C=C1)CCN(C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)CC)CC | C34H46N2O3
product | 6-{2-{{2-[4-(2-Diethylaminoethoxy)phenyl]ethyl}ethylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 212 mg | C(C)N(CCOC1=CC=C(C=C1)CCN(C1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)CC)CC | C32H42N2O3
